US08067445B2
Step 5: Ethyl-[2′-methoxy-5′-(2H-tetrazol-5-ylmethyl)-4-trifluoromethyl-biphenyl-2-ylmethyl]-carbamic acid benzyl ester
(5′-Cyanomethyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-ethyl-carbamic acid benzyl ester (0.209 g, 0.43 mmol), azidotrimethylsilane (0.07 mL, 0.52 mmol), and dibutyltin oxide (0.015 g, 0.04 mmol) were combined in toluene (2.1 mL) and stirred at 110° C. overnight Analytical LCMS indicated that the reaction wasn't proceeding, so additional azidotrimethylsilane (0.04 mL, 0.26 mmol), and dibutyltin oxide (catalytic) was added, and the reaction was stirred at 100° C. overnight. The mixture was cooled to room temperature and concentrated, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound. M+H is 526.

reactant | (5′-Cyanomethyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-ethyl-carbamic acid benzyl ester | 0.43 mmol, 0.209 g | C(C1=CC=CC=C1)OC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)CC#N)OC)=O | C27H25F3N2O3
reactant | azidotrimethylsilane | 0.52 mmol, 0.07 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.04 mmol, 0.015 g | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 0.26 mmol, 0.04 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | toluene | 2.1 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl-[2′-methoxy-5′-(2H-tetrazol-5-ylmethyl)-4-trifluoromethyl-biphenyl-2-ylmethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)CC=1N=NNN1)OC)CC)=O | C27H26F3N5O3
